US05571821
2-Bromobiphenyl (2.33 g, 10 mmol) was dissolved in ether (10 ml) and cooled to -78° C. n-Butyllithium (2.5M solution in hexane, 4.8 ml, 12 mmol) was added dropwise under constant stirring and argon atmosphere. The resultant reaction mixture was stirred at -70° C. to -60° C. for 1 h. The reaction mixture was cooled to -78° C. and sulfuryl chloride (0.88 ml, 11 mmol) was added dropwise. After addition, the reaction mixture was allowed to attain ambient temperature slowly and stirred for 1 h. The reaction mixture was diluted with ethyl acetate (50 ml), washed with water and the organic layer dried over anhydrous MgSO4. Removal of the solvent under reduced pressure gave a crude product, which was purified by column chromatography, using hexane followed by 5% ethyl acetate in hexane as a eluent, to give 2-biphenylsulfonyl chloride as a solid (1.3 g, 51% yield).

reactant | 2-Bromobiphenyl | 10 mmol, 2.33 g | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | n-Butyllithium | 12 mmol, 2.5M, 4.8 ml | C(CCC)[Li]
reactant | sulfuryl chloride | 11 mmol, 0.88 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-biphenylsulfonyl chloride | 1.3 g, 51% yield | C=1(C(=CC=CC1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
